US07517889B2
To a solution of (6-chloro-2-vinyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine (240 mg, 0.73 mmol) in THF (2 mL), acetone (2 mL) and water (2 mL) is added 4-methylmorpholine N-oxide (342 mg, 2.92 mmol) followed by osmium tetroxide (153 μL, 0.015 mmol). After stirring the mixture at room temperature for 17 hours a solution of sodium bisulfite (728 mg, 7 mmol) in water (15 mL) is added and extracted twice with EtOAc (25 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford 1-{4-chloro-6-[2-(2,4-dichloro-phenyl)-ethylamino]-pyrimidin-2-yl}-ethane-1,2-diol (320 mg) as a solid.

reactant | (6-chloro-2-vinyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 0.73 mmol, 240 mg | ClC1=CC(=NC(=N1)C=C)NCCC1=C(C=C(C=C1)Cl)Cl | C14H12Cl3N3
reactant | 4-methylmorpholine N-oxide | 2.92 mmol, 342 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite | 7 mmol, 728 mg | S([O-])(O)=O.[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 2 mL | O | H2O
solvent | water | 15 mL | O | H2O
catalyst | osmium tetroxide | 0.015 mmol, 153 μL | [Os](=O)(=O)(=O)=O
product | 1-{4-chloro-6-[2-(2,4-dichloro-phenyl)-ethylamino]-pyrimidin-2-yl}-ethane-1,2-diol | 320 mg | ClC1=NC(=NC(=C1)NCCC1=C(C=C(C=C1)Cl)Cl)C(CO)O | C14H14Cl3N3O2
